US07687515B2
B: 3.4-Diamino-6-(3-(trifluoromethyl)phenyl)-pyridine-2-carbonitril
To a stirring suspension of 4-amino-3-nitro-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile (300 mg, 0.97 mmol) in ethyl acetate (80 ml) was added 10% palladium on carbon (wet) (300 mg, 2.82 mmol). The vessel was purged with hydrogen (balloon) and stirred at room temperature for 1.5 hrs. Reaction mixture was filtered through celite and concentrated in vacuo to give the title compound as a dark orange solid (240 mg, 89%). 1H NMR (MeOD): δ 8.15 (s, 1H), 8.04 (d, 1H), 7.58-7.65 (m, 2H), 7.18 (s, 1H). MS m/z 279.3 (M+1).

reactant | 4-amino-3-nitro-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | 0.97 mmol, 300 mg | NC1=C(C(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N)[N+](=O)[O-] | C13H7F3N4O2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 2.82 mmol, 300 mg | [Pd] | Pd
product | 3.4-Diamino-6-(3-(trifluoromethyl)phenyl)-pyridine-2-carbonitril | 240 mg, 89% | NC=1C(=NC(=CC1N)C1=CC(=CC=C1)C(F)(F)F)C#N | C13H9F3N4
